* D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\combined-pulser-CSP-PS.asc
C7 0 N009 10pF
R10 N002 N009 13
C10 N009 N008 230pF
V5 N001 0 5
V1 0 N007 5
R16 0 N010 200
R17 0 N011 1k
C11 N010 N003 100pF
R18 N004 N011 100
R19 0 N005 1k
C12 N005 N004 200pF
R22 N012 N004 100
C13 N012 0 69pF
C14 N015 0 69pF
R23 0 N014 1k
C15 N013 0 69pF
R25 N013 N005 100
R26 N015 N014 100
R1 N010 N003 29k
XU1 N010 N011 N001 0 N011 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N012 N005 N001 0 N005 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 N013 N014 N001 0 N014 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N015 N016 N001 0 output level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 output N016 1k
R3 0 N016 100
V2 N006 0 0
R4 N003 N002 6.9k
C1 N003 N002 420pF
XU5 N006 N002 N001 N007 N003 OPA855
V4 N008 0 PULSE(35 26.9 0 3e-9 300e-9 0 1e-6)
.tran 0 1e-6 0
.lib D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\OPA855\Rev_A\OPA855.CIR
.lib UniversalOpamps2.sub
.backanno
.end
